US05053415
A solution of ethyl 2-methyl-2-(2-nitro-4-methylphenoxy)propionate (4.47 g) in toluene (50 ml) was cooled to -78° C. and treated dropwise with diisobutylaluminium hydride (DIBAL, 11.3 ml, 1.5M solution in toluene). The mixture was stirred for 2 hours and then additional DIBAL was added until reaction was complete, (ca. 4.4 ml) as monitored by thin layer chromatographic (tlc). The reaction was quenched by addition of aqueous ammonium chloride solution and ether. The resulting mixture was clarified by filtration through kieselguhr. The organic phase was separated, dried (MgSO4) and concentrated to give an oil. Purification by flash column chromatography, eluting with a mixture of ethyl acetate and hexane (increasing from 10:90 v/v to 15:85 v/v), gave 2-methyl-2-(2-nitro-4-methylphenoxy)propanal as an oil, (1.89 g); NMR: 1.45(6H, s), 2.35(3H, s), 6.8-7.6(3H, m) and 9.85(1H, s).

reactant | ethyl 2-methyl-2-(2-nitro-4-methylphenoxy)propionate | 4.47 g | CC(C(=O)OCC)(C)OC1=C(C=C(C=C1)C)[N+](=O)[O-] | C13H17NO5
reactant | diisobutylaluminium hydride | 1.5M, 11.3 ml | [H-].C(C(C)C)[Al+]CC(C)C
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | 2-methyl-2-(2-nitro-4-methylphenoxy)propanal | CC(C=O)(C)OC1=C(C=C(C=C1)C)[N+](=O)[O-] | C11H13NO4
